US07863271B2
To a solution of (R)-2-(benzylamino)-3-hydroxypropanoic acid hydrochloride (9.4 g, 48.2 mmol) and sodium hydroxide (2.57 g, 82.9 mmol) in H2O (30 mL) at 0° C. was added drop wise chloroacetyl chloride (4.9 mL, 62.1 mL) while maintaining the temperature below 10° C. The reaction mixture was then warmed to room temperature and stirred for 2 hours. The reaction mixture was extracted with CH2Cl2 (2×250 mL) and the organic layer dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (silica gel, 10 to 30% CH3OH in CH2Cl2 with 1% acetic acid) to provide (R)-2-(N-benzyl-2-chloroacetamido)-3-hydroxypropanoic acid (2.6 g, 20%) as a yellow foam. 1H NMR consistent.

reactant | (R)-2-(benzylamino)-3-hydroxypropanoic acid hydrochloride | 48.2 mmol, 9.4 g | Cl.C(C1=CC=CC=C1)N[C@@H](C(=O)O)CO
reactant | sodium hydroxide | 82.9 mmol, 2.57 g | [OH-].[Na+]
reactant | chloroacetyl chloride | 4.9 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | H2O | 30 mL | O | H2O
product | (R)-2-(N-benzyl-2-chloroacetamido)-3-hydroxypropanoic acid | 2.6 g, 20% | C(C1=CC=CC=C1)N(C(CCl)=O)[C@@H](C(=O)O)CO | C12H14ClNO4
